### PR TITLE
[Merged by Bors] - feat(Data/List/Triplewise): `List.Triplewise`

### PR DESCRIPTION
**Pull request by jsm28**
Add a definition `List.Triplewise`, for a predicate on a list determined by a predicate on triples of distinct elements.

This is intended in particular for geometrical properties such as betweenness, and was originally suggested by Yaël in 2021: https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/circular.20predicate (definition adapted from there for Lean 4, and some API added).

There is undoubtedly lots more API that could be added, but what I have here is sufficient for at least one geometrical use case: defining a list of points being weakly in order on a line and proving that this definition is equivalent to the list of points being the image under a `lineMap` of an ordered list of values in the underlying field.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/Triwise.lean [hunk 1]
```diff
@@ -0,0 +1,66 @@
...
+
+-/
+
+
+namespace List
+
+variable {α β : Type*}
+
+/-- Whether a predicate holds for all ordered triples of elements of a list. -/
+inductive Triwise (p : α → α → α → Prop) : List α → Prop
```
Comment (YaelDillies) [inline Mathlib/Data/List/Triwise.lean:24]: If you do
```suggestion
@[mk_iff]
inductive Triwise (p : α → α → α → Prop) : List α → Prop
```

File: Mathlib/Data/List/Triwise.lean [hunk 2]
```diff
@@ -0,0 +1,66 @@
...
+  | cons {a : α} {l : List α} : l.Pairwise (p a) → l.Triwise p → (a :: l).Triwise p
+
+attribute [simp] Triwise.nil
+
+variable {a b c : α} {l : List α} {p q : α → α → α → Prop} {f : α → β} {p' : β → β → β → Prop}
+
+lemma triwise_cons : (a :: l).Triwise p ↔ l.Pairwise (p a) ∧ l.Triwise p := by
+  refine ⟨fun h ↦ ?_, fun h ↦ Triwise.cons h.1 h.2⟩
+  cases h with
+  | cons hp ht => exact ⟨hp, ht⟩
```
Comment (YaelDillies) [inline Mathlib/Data/List/Triwise.lean:35]: ... then you should be able to do
```suggestion
lemma triwise_cons : (a :: l).Triwise p ↔ l.Pairwise (p a) ∧ l.Triwise p := by
  simp [triwise_iff]
```

**Review by YaelDillies — COMMENTED** [review]
Woah, that's ancient. Thank you for reviving!

Do you think you could prove that this is equivalent to the titular definition in terms of ordered triples of indices? Something like
```
lemma triwise_iff_forall_get :
  l.triwise p ↔ ∀ i j k, i < j → j < k → p l[i] l[j] l[k]
```

**Comment by jsm28** [comment]
Added `triwise_iff_getElem` as requested (named by analogy to `pairwise_iff_getElem`).

File: Mathlib/Data/List/Triwise.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Data/List/Triwise.lean]: Fixed

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by b-mehta** [comment]
cc: @eric-wieser, since we discussed something similar in the past

File: Mathlib/Data/List/Triwise.lean [hunk 3]
```diff
@@ -0,0 +1,91 @@
...
+Copyright (c) 2025 Joseph Myers, Yaël Dillies. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Joseph Myers, Yaël Dillies
+-/
+import Aesop
+import Mathlib.Tactic.Lemma
+import Mathlib.Tactic.MkIffOfInductiveProp
+
+/-!
+# Triwise predicates on list.
```
Comment (eric-wieser) [inline Mathlib/Data/List/Triwise.lean:11]: Is "triwise" a word? I'd expect to see it written `tripletwise`, at least in a docstring if that's too long for a name. After all, we say "pairwise" not "biwise".

**Comment by eric-wieser** [comment]
> since we discussed something similar in the past

Indeed, we discussed the analogs of this definition for `Set.Pairwise` and `_root_.Pairwise`. I think it would be nice to have all three with associated API, but I can contribute something towards the other ones.

I'm generally happy with this PR besides being uncertain about `Triwise` vs `Tripletwise`

File: Mathlib/Data/List/Triwise.lean (hunk 3 above)
Comment (jsm28) [reply Mathlib/Data/List/Triwise.lean]: OK, I've renamed it to `Tripletwise` everywhere. (The original name was just taken from Yaël's suggestion on Zulip.)

As for `Set` and `_root_` definitions, they're not relevant for my current use case but they seem reasonable to add separately anyway. (There would be other geometrical uses for such definitions; for example, "a set of points is collinear iff they are tripletwise collinear".)

**Review by eric-wieser — COMMENTED** [review]
How hard is `l.reverse.Tripletwise p ↔ l.Tripletwise fun a b c => p c b a` to prove?

File: Mathlib/Data/List/Tripletwise.lean [hunk 4]
```diff
@@ -0,0 +1,94 @@
...
+@[simp] lemma tripletwise_triple : [a, b, c].Tripletwise p ↔ p a b c := by
+  simp [tripletwise_cons]
+
+lemma Tripletwise.imp (h : ∀ {a b c}, p a b c → q a b c) (hl : l.Tripletwise p) :
+    l.Tripletwise q := by
+  induction l with
+  | nil => simp
+  | cons head tail ih =>
+    rw [tripletwise_cons] at hl ⊢
+    exact ⟨hl.1.imp h, ih hl.2⟩
```
Comment (eric-wieser) [inline Mathlib/Data/List/Tripletwise.lean:56]: A little easier to induct on `hl` directly:
```suggestion
  induction hl with
  | nil => exact .nil
  | cons head tail ih => exact .cons (head.imp h) ih
```

**Comment by jsm28** [comment]
Added `tripletwise_append` and `tripletwise_reverse`.

**Comment by eric-wieser** [comment]
What do you think about skipping straight to the n-ary version? At some point we'll presumably want "no four points form a plane" or something. That could look like:
```
/-- Whether a predicate holds for all ordered `n`-tuples of elements of a list.

Note that we need `Function.OfArity α (PUnit.{u + 1} → Prop) n)` not just `Function.OfArity α Prop n` because of universe polymorphism issues.
In practice, that means every predicate must take one final dummy argument.
-/
inductive List.Tupletwise {α : Type u} : ∀ {n} (p : Function.OfArity α (PUnit.{u + 1} → Prop) n), List α → Prop
  /-- For zero-tuples, tupletwise means the property is just true -/
  | of_true {l : List α} {p : Function.OfArity α (PUnit.{u + 1} → Prop) 0} (h : p .unit) : l.Tupletwise (n := 0) p
  /-- For non-empty tuples, the property is always true on empty lists. -/
  | nil : [].Tupletwise (n := n + 1) p
  /-- For non-empty tuples, the property is true on `a :: l` if it is true on `l` and the `a`-curried version is also true on `l`. -/
  | cons {a : α} {l : List α} {n} {p : Function.OfArity α (PUnit.{u + 1} → Prop) (n + 1)} :
      l.Tupletwise (n := n) (p a) → (l.Tupletwise (n := n + 1)) p → (a :: l).Tupletwise (n := n + 1) p

theorem List.Tupletwise.prop {α : Type u} {l : List α} {p : Function.OfArity α (PUnit.{u + 1} → Prop) 0} (h : l.Tupletwise p) :
    p .unit :=
  match h with
  | of_true h => h

theorem List.Tupletwise.forall {α : Type u} {l : List α} {p : Function.OfArity α (PUnit.{u + 1} → Prop) 1} (h : l.Tupletwise p) :
    ∀ x ∈ l, p x .unit :=
  match h with
  | .nil => by simp
  | .cons head tail => forall_mem_cons.mpr ⟨head.prop, tail.forall⟩

theorem List.Tupletwise.of_forall {α : Type u} {l : List α} {p : α → Prop} (h : ∀ x ∈ l, p x) :
    l.Tupletwise (n := 1) fun x _ => p x  :=
  match l with
  | .nil => .nil
  | .cons _ _ => let ⟨h1, h2⟩ := forall_mem_cons.mp h; .cons (.of_true h1) <| .of_forall h2

theorem List.Tupletwise.pairwise {α : Type u} {l : List α} {p : Function.OfArity α (PUnit.{u + 1} → Prop) 2} (h : l.Tupletwise p) :
    l.Pairwise (fun x y => p x y .unit) :=
  match h with
  | .nil => .nil
  | .cons head tail => .cons head.forall tail.pairwise

theorem List.Tupletwise.of_pairwise {α : Type u} {l : List α} {p : α → α → Prop} (h : l.Pairwise p) :
    l.Tupletwise (n := 2) fun x y _ => p x y :=
  match h with
  | .nil => .nil
  | .cons head tail => .cons (.of_forall head) (.of_pairwise tail)
```
though the `PUnit` in `Function.OfArity` is a little unfortunate.

**Comment by jsm28** [comment]
Even without an extra argument (and I think it's definitely desirable to be able to use existing predicates with such operations without needing an extra argument), I expect the concrete lemmas you get for specific arity (and, sometimes, having a number of hypotheses that depends on the arity) will always be more convenient to work with than lemmas stated in an arity-generic form.

I don't rule out that it might be possible to construct such lemmas (for each fixed arity, including `Pairwise`) using metaprogramming in some way rather than needing to state them all explicitly for each arity, but still getting each lemma for each arity stated in a convenient form for that arity. And, yes, we might eventually want `Quadrupletwise` lemmas.

File: Mathlib/Data/List/Triwise.lean (hunk 3 above)
Comment (kim-em) [reply Mathlib/Data/List/Triwise.lean]: `triple` is the usually mathematical term, not `triplet`, no?

Comment (kim-em) [reply Mathlib/Data/List/Triwise.lean]: Similarly below, it's definitely not `tuplet`, just `tuple`.

Comment (eric-wieser) [reply Mathlib/Data/List/Triwise.lean]: You're quite right, musical naming was sneaking in there.

Comment (jsm28) [reply Mathlib/Data/List/Triwise.lean]: Renamed now to `Triplewise`.

We have `tuple`s in mathlib, they're `Fin n → α`. (I think polygons built on tuples will end up being a more convenient way of talking about cyclic polygons than something built on lists, and while such things could be defined in terms of either `Triplewise` (all points on same circle and all triples in the same cyclic order) or `Quadruplewise` (all quadruples are cyclic quadrilaterals), more convenient definitions in that case probably won't be based on those predicates.)

**Comment by jcommelin** [comment]
Let's first go with this 3-ary design, and worry about n-ary later.

bors merge
